US04897392
13-Bromoindolo[1,2-d][1,4]benzodiazepin-6(7H)-one
A solution of 2.36 g N-bromosuccinimide in 50 ml dimethylformamide was added dropwise to a solution of 3.0 g indolo[1,2-d][1,4]benzodiazepin-6(7H)-one in 50 ml dimethylformamide, during which the reaction mixture was cooled with cold water. The resulting solution was stirred at room temperature for two hours and then poured into 800 ml water. The precipitate was collected, washed with water and dried under vacuum (P2O5) to give 3.7 g solid;

reactant | N-bromosuccinimide | 2.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | indolo[1,2-d][1,4]benzodiazepin-6(7H)-one | 3.0 g | C1=CC=CC2=C1C=1N(CC(N2)=O)C=2C=CC=CC2C1 | C16H12N2O
reactant | water | O | H2O
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 13-Bromoindolo[1,2-d][1,4]benzodiazepin-6(7H)-one | 3.7 g | BrC=1C=2C=CC=CC2N2CC(NC3=C(C21)C=CC=C3)=O | C16H11BrN2O
